US04080328
A mixture of 2.2 g of 1-{1-[3-(p-fluorophenoxy)-2-acetyloxypropyl]-4-piperidyl}-2-oxobenzimidazoline, 1.1 g of potassium hydroxide, 5 ml of water and 20 ml of ethanol is stirred at room temperature for one hour. The reaction mixture is poured into 200 ml of water. After cooling, the precipitate formed is collected by filtration and dried to give 1-{1-[3-(p-fluorophenoxy)-2-hydroxypropyl]-4-piperidyl}-2-oxobenzimidazoline, m.p. 175° - 176° C. Recrystallization from benzene gives white crystals, m.p. 177° - 178° C.

reactant | 1-{1-[3-(p-fluorophenoxy)-2-acetyloxypropyl]-4-piperidyl}-2-oxobenzimidazoline | 2.2 g | FC1=CC=C(OCC(CN2CCC(CC2)N2C(NC3=C2C=CC=C3)=O)OC(C)=O)C=C1 | C23H26FN3O4
reactant | potassium hydroxide | 1.1 g | [OH-].[K+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 1-{1-[3-(p-fluorophenoxy)-2-hydroxypropyl]-4-piperidyl}-2-oxobenzimidazoline | FC1=CC=C(OCC(CN2CCC(CC2)N2C(NC3=C2C=CC=C3)=O)O)C=C1 | C21H24FN3O3
